2133-08-23 16:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo man well known to MICU with diastolic and systolic HF, ESRD on
   HD, PPM, thrombocytopenia, presented originally from OSH with SOB.
   Found to be hypercarbic on admission to MICU.  Did well and was
   transferred to the floor.  Was tapped on the floor - 1L removed,
   transudative.  This AM on floor, found to be somnolent 7.27/70/89.  Has
   subsequently improved on transfer to the MICU.   Has not received
   sedative agents.
   24 Hour Events:
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Proton Pump Inhibitors (Benzimidazole)
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   amiodarone
   midodrine
   simethacone
   vanco PO
   nephrocaps
   tylenol prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-23**] 04:58 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.4
C (95.7
   Tcurrent: 35.4
C (95.7
   HR: 71 (71 - 74) bpm
   BP: 105/70(75) {105/58(69) - 110/89(93)} mmHg
   RR: 21 (13 - 21) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Height: 65 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.26/65/67//0
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): time 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.9 g/dL
   79 K/uL
   77 mg/dL
   4.4 mg/dL
   26 mEq/L
   5.7 mEq/L
   26 mg/dL
   100 mEq/L
   137 mEq/L
   33.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2133-8-20**]  03:59 PM
                             [**2133-8-20**]  10:00 PM
                             [**2133-8-21**]  12:38 AM
                             [**2133-8-21**]  05:08 AM
                             [**2133-8-23**]  02:24 PM
   WBC
   6.9
   Hct
   33.6
   Plt
   79
   Cr
   4.4
   TropT
   0.26
   TCO2
   30
   31
   Glucose
   77
   77
   Other labs: CK / CKMB / Troponin-T:22//0.26, Lactic Acid:1.1 mmol/L,
   Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Acute on chronic respiratory failure:  Has baseline restrictive disease
   with thoracic stomach with gross fluid overload, large effusions,
   worsening restriction. Can consider night time bipap when asleep.
   Oxygenation is actually ok give degree of hypercarbia.
   Acute on chronic diastolic CHF:  will need >10kg of fluid removed, but
   BP may be a limiting factor.
   AFib on amio
   thrombocytopenia
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-23**] 02:17 PM
   Dialysis Catheter - [**2133-8-23**] 02:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2133-08-24 10:14:00 Physician Attending Progress Note
Chief Complaint: hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient tolerated CPAP overnight.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2133-8-23**] 02:19 PM
 NON-INVASIVE VENTILATION - START [**2133-8-24**] 01:01 AM
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Proton Pump Inhibitors (Benzimidazole)
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2133-8-23**] 04:00 PM
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2133-8-23**] 08:20 PM
   Other medications:
   amiodarone
   nephrocaps
   CaCO3
   Vanco PO
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-24**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 71 (70 - 82) bpm
   BP: 122/59(73) {105/44(64) - 135/89(93)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Wgt (current): 80.6 kg (admission): 79.4 kg
   Height: 65 Inch
                  Total In:
                                                                     60 mL
                  PO:
                                                                     60 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     60 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (244 - 400) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   SpO2: 94%
   ABG: 7.24/65/86/28/-1
   Ve: 4.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): times 3 , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.7 g/dL
   93 K/uL
   95 mg/dL
   4.8 mg/dL
   28 mEq/L
   4.3 mEq/L
   30 mg/dL
   101 mEq/L
   138 mEq/L
   31.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2133-8-20**]  03:59 PM
                             [**2133-8-20**]  10:00 PM
                             [**2133-8-21**]  12:38 AM
                             [**2133-8-21**]  05:08 AM
                             [**2133-8-23**]  02:24 PM
                             [**2133-8-24**]  05:10 AM
                             [**2133-8-24**]  05:26 AM
   WBC
   6.9
   6.1
   Hct
   33.6
   31.5
   Plt
   79
   93
   Cr
   4.4
   4.8
   TropT
   0.26
   TCO2
   30
   31
   29
   Glucose
   77
   77
   95
   Other labs: PT / PTT / INR:14.0/32.9/1.2, CK / CKMB /
   Troponin-T:22//0.26, Lactic Acid:1.1 mmol/L, Albumin:4.0 g/dL, Ca++:9.4
   mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Acute on chronic diastolic HF with gross fluid overload.
   Hypercapnic respiratory failure:  Did will with bipap.  Can continue
   night-time bipap when asleep.
   C. diff:  Completed course of PO vanco.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-23**] 02:17 PM
   Dialysis Catheter - [**2133-8-23**] 02:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2133-08-25 09:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo man with diastolic CHF, hypercarbic respiratory failure, ESRD on
   HD.  Became SOB, hypercapneic with HD yesterday. pCO2 to 90.    Was off
   bipap overnight.  Desatted to 73%, 6.99/120/67.  Placed back on Bipap
   with improvement in saturation.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2133-8-24**] 09:00 AM  Preserved LVEF, HK RV,
   similar to prior study.
 NON-INVASIVE VENTILATION - START [**2133-8-24**] 12:00 PM
 NON-INVASIVE VENTILATION - STOP [**2133-8-24**] 10:00 PM
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Proton Pump Inhibitors (Benzimidazole)
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2133-8-23**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   amio
   nephrocaps
   carafate
   Calcuim
   chlorhexadine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-25**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.2
C (95.3
   HR: 72 (70 - 87) bpm
   BP: 98/52(61) {78/38(50) - 121/64(87)} mmHg
   RR: 12 (8 - 20) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Wgt (current): 76.8 kg (admission): 79.4 kg
   Height: 65 Inch
                  Total In:
                                                                    230 mL
                  PO:
                                                                    230 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,970 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 314 (260 - 2,535) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.13/87.[**Numeric Identifier 244**]/62/27/-2
   Ve: 4.4 L/min
   PaO2 / FiO2: 89
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   82 K/uL
   116 mg/dL
   4.1 mg/dL
   27 mEq/L
   5.2 mEq/L
   22 mg/dL
   97 mEq/L
   141 mEq/L
   36.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2133-8-21**]  12:38 AM
                             [**2133-8-21**]  05:08 AM
                             [**2133-8-23**]  02:24 PM
                             [**2133-8-24**]  05:10 AM
                             [**2133-8-24**]  05:26 AM
                             [**2133-8-24**]  11:34 AM
                             [**2133-8-24**]  06:34 PM
                             [**2133-8-24**]  11:42 PM
                             [**2133-8-25**]  04:38 AM
                             [**2133-8-25**]  07:18 AM
   WBC
   6.9
   6.1
   8.9
   Hct
   33.6
   31.5
   36.0
   Plt
   79
   93
   82
   Cr
   4.4
   4.8
   4.1
   TropT
   0.26
   TCO2
   31
   29
   31
   31
   31
   Glucose
   77
   95
   102
   116
   Other labs: PT / PTT / INR:14.0/32.9/1.2, CK / CKMB /
   Troponin-T:22//0.26, Lactic Acid:2.6 mmol/L, Albumin:4.0 g/dL, Ca++:9.3
   mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR:  Left lung collapse
   Assessment and Plan
   Respiratory failure:  Worsening respiratory status.  Very poor
   prognosis.  Left lung collapse.
   Heart failure:
   Chronic renal failure:
   Had discussion with oldest son, HCP:  At this point options are very
   limited, and he will likely pass away.  Son does not want, intubation,
   pressors, lines, or invasive
   procedures, but would like to continue non-invasive ventilation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-23**] 02:17 PM
   Dialysis Catheter - [**2133-8-23**] 02:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes